US07202364B2
A mixture 7-nitro-2-aminonaphthalene (1 g, 5.31 mmol) and nitrosonium tetrafluoroborate (931 mg, 7.97 mmol) in dichloromethane (10 mL) is stirred at room temperature for 12 hours and at 110° C. for 1 hour. After cooling to room temperature, the reaction mixture is concentrated by rotary evaporator under high vacuum. The residual oil is purified by flash chromatography on silica gel (3:1 hexanes/EtOAc) to give 7-fluoro-2-nitronaphthalene as a dark red solid.

reactant | 7-nitro-2-aminonaphthalene | 5.31 mmol, 1 g | [N+](=O)([O-])C1=CC=C2C=CC(=CC2=C1)N | C10H8N2O2
reactant | nitrosonium tetrafluoroborate | 7.97 mmol, 931 mg | F[B-](F)(F)F.N#[O+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-fluoro-2-nitronaphthalene | FC1=CC=C2C=CC(=CC2=C1)[N+](=O)[O-] | C10H6FNO2
